US04066434
a mixture of 23 parts of 0-methylisourea and 54 parts of dimethyl methoxycarbonylphosphonate in 1000 parts of anhydrous tetrahydrofuran was refluxed for one hour. The solvent was removed to give dimethyl 1-amino-1-methoxy-methyleneaminocarbonylphosphonate, nD27 = 1.4774.

reactant | 0-methylisourea | COC(=N)N | C2H6N2O
reactant | dimethyl methoxycarbonylphosphonate | COC(=O)P(OC)(OC)=O | C4H9O5P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | dimethyl 1-amino-1-methoxy-methyleneaminocarbonylphosphonate | NC(OC)=NC(=O)P(OC)(OC)=O | C5H11N2O5P
